US04871737
3-Heptylamino-5-methyl-1H-pyrazole-4-carboxylic acid, ethyl ester, hydrochloride [1:1].
A stirred solution of 30.3 g (0.16 mole) of 4-heptyl-3-thiosemicarbazide in 500 mL of absolute ethanol under nitrogen atmosphere was treated with the rapid addition of 26.3 g (0.16 mole) of ethyl 2-chloroacetoacetate, stirred at ambient temperature for ~16 hr, heated at reflux for 3 hr and filtered hot. Concentration of the filtrate in vacuo gave a deep red oil. The oil solidified on standing for ~16 hr and was recrystallized from 2-propyl alcohol to give 15 g of fine white crystals, mp 83°-84° C.

reactant | 4-heptyl-3-thiosemicarbazide | 0.16 mole, 30.3 g | C(CCCCCC)NC(NN)=S | C8H19N3S
reactant | ethyl 2-chloroacetoacetate | 0.16 mole, 26.3 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
solvent | ethanol | 500 mL | C(C)O | C2H6O
product | 3-Heptylamino-5-methyl-1H-pyrazole-4-carboxylic acid, ethyl ester, hydrochloride | 15 g | Cl.C(CCCCCC)NC1=NNC(=C1C(=O)OCC)C | InChI=1S/C14H25N3O2.ClH/c1-4-6-7-8-9-10-15-13-12(11(3)16-17-13)14(18)19-5-2;/h4-10H2,1-3H3,(H2,15,16,17);1H
